US04330461
To a stirred refluxing solution of 5.00 g of 4,6-dichloro-2-methylthiopyrimidine in 150 ml of o-dichlorobenzene under nitrogen was added dropwise 15.00 g of methyl diphenylphosphinite over 35 minutes. The mixture was refluxed for 5.5 hours after the addition was completed and then allowed to cool, at which time it was added to 850 ml of n-hexane. The resulting solid was separated by filtration, washed with n-hexane, and recrystallized from 100 ml of ethanol to give 11.00 g of 4,6-bis(diphenylphosphinyl)-2-methylthiopyrimidine as white crystals, mp 221°-222° C. Anal. Calcd for C29H24N2O2P2S: C, 66.15; H, 4.59; N, 5.32. Found: C, 65.59, 65.59; H, 4.54, 4.75; N, 5.04, 5.01.

reactant | 4,6-dichloro-2-methylthiopyrimidine | 5.00 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | methyl diphenylphosphinite | 15.00 g | C1(=CC=CC=C1)P(OC)C1=CC=CC=C1 | C13H13OP
reactant | n-hexane | 850 ml | CCCCCC | C6H14
solvent | o-dichlorobenzene | 150 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4,6-bis(diphenylphosphinyl)-2-methylthiopyrimidine | 11.00 g | C1(=CC=CC=C1)P(=O)(C1=NC(=NC(=C1)P(=O)(C1=CC=CC=C1)C1=CC=CC=C1)SC)C1=CC=CC=C1 | C29H24N2O2P2S
